US09193721B2
Step A. 1-[8-Chloro-5 (4-cyclobutylpiperazin-1-yl)imidazo[1,5-a]pyridine-6-yl]ethanone
tert-Butyl 4-(6-acetyl-8-chloroimidazo[1,5-a]pyridine-5-yl)piperazine-1-carboxylate (33 mg, 0.087 mmol) was treated with a solution of 4 M hydrogen chloride in 1,4-dioxane (1.0 mL) and evaporated to dryness. Cyclobutanone (13 μL, 0.18 mmol), tetrahydrofuran (0.5 mL) and acetonitrile (0.5 mL) were added and the mixture was stirred for 30 minutes. Sodium cyanoborohydride (17 mg, 0.26 mmol) was added and was stirred for 4 hours. Purification by preparative LCMS (pH 10) gave the desired compound (18 mg, 61%). LCMS calculated for C17H22ClN4O (M+H)+: m/z=333.1. found: 332.9.

reactant | tert-Butyl 4-(6-acetyl-8-chloroimidazo[1,5-a]pyridine-5-yl)piperazine-1-carboxylate | 0.087 mmol, 33 mg | C(C)(=O)C=1C=C(C=2N(C1N1CCN(CC1)C(=O)OC(C)(C)C)C=NC2)Cl | C18H23ClN4O3
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | Cyclobutanone | 0.18 mmol, 13 μL | C1(CCC1)=O | C4H6O
reactant | Sodium cyanoborohydride | 0.26 mmol, 17 mg | C(#N)[BH3-].[Na+]
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 1-[8-Chloro-5 (4-cyclobutylpiperazin-1-yl)imidazo[1,5-a]pyridine-6-yl]ethanone | 18 mg, 61% | ClC=1C=2N(C(=C(C1)C(C)=O)N1CCN(CC1)C1CCC1)C=NC2 | C17H21ClN4O
